US04608374
11-[(1-Butyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
A solution of 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (6.1 g, 0.023 mole), 1-chlorobutane (2.42 g, 0.026 mole), K2CO3 (10 g) and KI (0.1 g) in 100 ml dimethylformamide was heated at 70° C. for a total of 7 hours.

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.023 mole, 6.1 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | 1-chlorobutane | 0.026 mole, 2.42 g | ClCCCC | C4H9Cl
reactant | K2CO3 | 10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 11-[(1-Butyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | C(CCC)N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C21H28N2O
